US07452895B2
N4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenyl]-N6-(4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d]oxazol-2-yl)-quinazoline-4,6-diamine is prepared from 2-{4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-quinazolin-6-ylamino}-3a,4,6,6a-tetrahydro-pyrrolo[3,4-d]oxazole-5-carboxylic acid tert-butyl ester by standard BOC deprotection methods using TFA in methylene chloride. MS APCI (+) m/z 488, 490 (M+1, Cl pattern) detected; 1H NMR (400 mHz, CD3OD) δ 8.56 (d, 1H), 8.44 (s, 1H), 8.21 (br. s, 1H), 7.91 (m, 2H), 7.70 (m, 2H), 7.63 (d, 1H), 7.57 (d, 1H), 7.39 (m, 1H), 7.16 (d, 1H), 5.28 (s, 2H), 5.17 (m, 1H), 4.78 (m, 1H), 3.34 (d, 1H), 3.16 (d, 1H), 2.84 (m, 2H).

reactant | 2-{4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-quinazolin-6-ylamino}-3a,4,6,6a-tetrahydro-pyrrolo[3,4-d]oxazole-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2N=C(OC2C1)NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C30H30ClN7O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenyl]-N6-(4,5,6,6a-tetrahydro-3aH-pyrrolo[3,4-d]oxazol-2-yl)-quinazoline-4,6-diamine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=C(C=C12)NC=1OC2C(N1)CNC2 | C25H22ClN7O2
